US06172057B2
2-(1-methyl-1H-imidazol-2-ylsulfanyl)-octanoic acid ethyl ester was prepared according to the general method as outlined in example 9. Starting from ethyl 2-bromooctanoate (12.1 g, 48 mmol) and 1-methyl-2-mercapto imidazole (5 g, 43.8 mmol). Yield: 12 g (96%); clear oil; MS: 285 (M+H)+.

reactant | ethyl 2-bromooctanoate | 48 mmol, 12.1 g | BrC(C(=O)OCC)CCCCCC | C10H19BrO2
reactant | 1-methyl-2-mercapto imidazole | 43.8 mmol, 5 g | CN1C(=NC=C1)S | C4H6N2S
product | 2-(1-methyl-1H-imidazol-2-ylsulfanyl)-octanoic acid ethyl ester | C(C)OC(C(CCCCCC)SC=1N(C=CN1)C)=O | C14H24N2O2S
